US07737166B2
7-Fluoro-2-(3-hydroxyazetidin-1-yl)-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-143)
2-Chloro-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-cabonitrile (I-130) (100 mg, 0.35 mmol) was dissolved in methylene chloride (2 ml), then diisopropylethylamine (237 μl, 1.39 mmol) and 3-hydroxy-1-azetidine hydrochloride (76 mg, 0.70 mmol) were added, followed by heating under reflux in a sealed tube under nitrogen atmosphere for 6 hours. After cooling, dilution with methylene chloride and washing with water and saturated brine, the organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated away under reduced pressure. The resisting residue was recrystallized and purified with n-hexane/ethyl acetate to obtain the entitled compound (123 mg, quant) as a yellow white solid.

reactant | 2-Chloro-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-cabonitrile | 0.35 mmol, 100 mg | ClC=1OC=2C(N1)=C(C(=C(C2F)C2=CC=CC=C2)C)C#N | C15H8ClFN2O
reactant | diisopropylethylamine | 1.39 mmol, 237 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-hydroxy-1-azetidine hydrochloride | 0.70 mmol, 76 mg | C1C(CN1)O.Cl
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 7-Fluoro-2-(3-hydroxyazetidin-1-yl)-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | FC=1C(=C(C(=C2N=C(OC21)N2CC(C2)O)C#N)C)C2=CC=CC=C2 | C18H14FN3O2
